* C:\Users\mattr\Dokumenty\mateuszrjzr_stm\matiHome\simulation\single_rail_amp.asc
XU1 N003 N002 N001 0 N004 OPA375
V1 N001 0 3.3
R1 N002 N004 200k
R2 N002 N008 100k
C1 N008 N007 1µ
R3 N003 N008 470k
XU2 N010 N003 N009 0 N003 OPA375
V2 N009 0 3.3
R5 N010 0 470k
R6 N009 N010 470k
C3 N010 0 1µ
V3 N006 0 AC 1 0
C2 N005 N004 1µ
R4 0 N005 100k
R7 N006 N007 10
C4 0 N007 100n
C5 0 N003 100n
D1 0 N004 1N750
D2 0 N006 1N750
.model D D
.lib C:\Users\mattr\Dokumenty\LTspiceXVII\lib\cmp\standard.dio
.ac dec 10 10 100k
.lib C:\Users\mattr\Dokumenty\mateuszrjzr_stm\matiHome\simulation\OPA2375\fixed_models\opa375.lib
.backanno
.end
